US05654441
Cis-2-methyl-N-phenyl-1,3-oxathiolane-2-acetamide-3-oxide, prepared from 0.1 moles of 2-methyl-N-phenyl-1,3-oxathiolane-2-acetamide as prepared in Example 1, was placed with toluene (100 g), tetrabutylammonium bromide (a phase transfer catalyst) (0.32 g, 0.001 g mole) and malonic acid (pKa =2.83, 0.41 g, 0.004 g mole) in a 1 L three-necked round bottom flask equipped with a mechanical stirrer, a thermometer and a Dean-Stark trap for the efficient removal of evolved water of reaction. The reaction mixture so prepared was placed under a vacuum equivalent of 300 mm of Hg and heated at 72°-75° C. for 1 hour. Methanesulfonic acid (0.19 g, 0.002 g mole) was then added to the reaction mixture, the vacuum was increased to 200 mm Hg and heating was continued at 72°-75° C. for an additional hour. The reaction mixture was then cooled to 55°-60° C. and washed successively with 100 mL portions of 5% aqueous sodium hydroxide solution and water. The resulting organic layer was then decanted and concentrated, and after isolation and drying, yielded a total of 17.3 g of 5,6-dihydro-2-methyl-1,4-oxathiin-3-carboxanilide.

reactant | 2-methyl-N-phenyl-1,3-oxathiolane-2-acetamide | 0.1 moles | CC1(OCCS1)CC(=O)NC1=CC=CC=C1 | C12H15NO2S
catalyst | tetrabutylammonium bromide | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | malonic acid | 0.41 g | C(CC(=O)O)(=O)O | C3H4O4
catalyst | Methanesulfonic acid | 0.19 g | CS(=O)(=O)O | CH4O3S
solvent | toluene | 100 g | C1(=CC=CC=C1)C | C7H8
product | 5,6-dihydro-2-methyl-1,4-oxathiin-3-carboxanilide | 17.3 g | CC=1OCCSC1C(=O)NC1=CC=CC=C1 | C12H13NO2S
